US20010007875A1
18.5 g of the ethyl ester of 2-bromo-4-phenoxybutanoic acid, 6 g of thiourea and 5 g of sodium acetate in 100 ml of 2-methoxyethanol are heated under reflux for 3 h. The reaction medium is cooled and concentrated under vacuum and the residue obtained is taken up in 75 ml of demineralized water and 75 ml of dichloromethane. The organic phase is decanted, washed and dried over sodium sulfate to give an oil. By crystallizing from acetonitrile, this oil gives 6 g of 2-imino-5-(2-phenoxyethyl)-4-thiazolidinone in the form of a solid which decomposes above 250° C.

reactant | 2-bromo-4-phenoxybutanoic acid | BrC(C(=O)O)CCOC1=CC=CC=C1 | C10H11BrO3
reactant | thiourea | 6 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 5 g | C(C)(=O)[O-].[Na+]
solvent | 2-methoxyethanol | 100 ml | COCCO | C3H8O2
solvent | water | 75 ml | O | H2O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2-imino-5-(2-phenoxyethyl)-4-thiazolidinone | 6 g | N=C1SC(C(N1)=O)CCOC1=CC=CC=C1 | C11H12N2O2S
